US05149700
Step 2) Preparation of N-(Quinolin-2-yl)ethylenediamine
A solution of N-[2-[(quinolin-2-yl)amino]ethyl]acetamide (6.8 g, 0.030 mol) in 2N HCl (45 ml, 0.090 ml) was heated under reflux for 20 hours. The solution was cooled and extracted with EtOAc. The aqueous phase was made basic (pH9) with solid KOH, saturated with NaCl, and extracted with EtOAc. The combined extracts were dried (MgSO4) and concentrated to give 3.89 g (68%) of an off-white solid m.p. 124°-125° C.

reactant | N-[2-[(quinolin-2-yl)amino]ethyl]acetamide | 0.030 mol, 6.8 g | N1=C(C=CC2=CC=CC=C12)NCCNC(C)=O | C13H15N3O
solvent | HCl | 2N, 45 ml | Cl | ClH
product | N-(Quinolin-2-yl)ethylenediamine | 3.89 g, 68% | N1=C(C=CC2=CC=CC=C12)NCCN | C11H13N3
